US05455253
9-(3-Nitrophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone.
A mixture of 2-(3-nitrophenylmethylene)cyclohexanone (4.69 g), 1,3-cyclohexanedione (2.28 g), ammonium acetate (2.35 g) and 90 mL of ethanol was stirred at reflux under nitrogen for 48 hours. The mixture was cooled in an ice bath and orange crystals were collected by filtration. The material was chromatographed with dichloromethane, ethyl ether:dichloromethane (2:98) and ethyl ether:dichloromethane (10:90) as the elutents. The solvent was evaporated and the residue recrystallized from toluene/hexane to yield the title compound as yellow crystals (0.50 g); mp 218°-221° C.; NMR (CDCl3): 1.57-1.59 (m,4, CH2) 1.74-1.80 (m,2, CH2) 1.88-2.01 (m,2, CH2) 2.14 (broad s,2, CH2) 2.28-2.36 (m,2, CH2) 2.42-2.46 (m,2, CH2) 4.50 (s,1, CH) 5.40 (s,1, NH) 7.38 (t,1, J=7.8, Ar) 7.71 (d,1, J=7.6, Ar) 7.98 (q,1, J=7.3, 1.4, Ar) 8.09 (d,1, J=1.9, Ar); MS (CI, CH4): m/z=325(M+1). Analysis for C19H20N2O3.0.6 H2O: Calculated C, 68.08; H, 6.37; N, 8.36; Found: C, 68.27; H, 6.28; N, 8.01.

reactant | 2-(3-nitrophenylmethylene)cyclohexanone | 4.69 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C1C(CCCC1)=O | C13H13NO3
reactant | 1,3-cyclohexanedione | 2.28 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 2.35 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 9-(3-Nitrophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone | 0.50 g | [N+](=O)([O-])C=1C=C(C=CC1)C1C=2CCCCC2NC=2CCCC(C12)=O | C19H20N2O3
